US06468995B1
To a solution of diphenylmethyl 7β-formamido-3-methanesulfonyloxy-3-cephem-4-carboxylate (14.66 g, 30 m mol) in DMF (103 ml) was added 4-(mercaptomethyl)pyridine (4.13 g, 33 m mol) at −20° C., followed by dropwise addition of N,N-diisopropylethylamine (3.88 g, 30 m mol). The mixture was stirred at the same temperature for 1.9 hours and poured into ice water (500 ml). The resulting precipitates were collected by filtration and washed with water. The powder was dissolved in THF, and ethyl acetate and water were added respective. The separated organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by column chromatography on silica gel to give diphenylmethyl 7β-formamido-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate (13.73 g).

reactant | diphenylmethyl 7β-formamido-3-methanesulfonyloxy-3-cephem-4-carboxylate | 14.66 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)OS(=O)(=O)C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C22H20N2O7S2
reactant | 4-(mercaptomethyl)pyridine | 4.13 g | SCC1=CC=NC=C1 | C6H7NS
reactant | N,N-diisopropylethylamine | 3.88 g | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 103 ml | CN(C)C=O | C3H7NO
product | diphenylmethyl 7β-formamido-3-[(4-pyridyl)methylthio]-3-cephem-4-carboxylate | 13.73 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)SCC2=CC=NC=C2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H23N3O4S2
